US07288538B2
To a homogenous mixture of 3-(N-methoxymethyl-N-phenylsulfamoyl)thiophene-2-carboxylic acid methyl ester (3 g, 8.75 mmol) in methanol and water was added aqueous, sodium hydroxide solution (2N, excess) at room temperature. Upon completion of the reaction, the mixture was cooled and extracted once with diethyl ether. The aqueous layer will then acidified with aqueous, HCl (2N, excess) before re-extracting twice with ethyl acetate. The organic layer was washed once with brine solution and dried over anhydrous sodium sulfate. The ethyl acetate solution was decanted and evaporated under reduced pressure to give the desired 3-(N-methoxymethyl-N-phenylsulfamoyl)thiophene-2-carboxylic acid (2.2 g, 79%).

reactant | 3-(N-methoxymethyl-N-phenylsulfamoyl)thiophene-2-carboxylic acid methyl ester | 8.75 mmol, 3 g | COC(=O)C=1SC=CC1S(N(C1=CC=CC=C1)COC)(=O)=O | C14H15NO5S2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(N-methoxymethyl-N-phenylsulfamoyl)thiophene-2-carboxylic acid | 2.2 g, 79% | COCN(S(=O)(=O)C1=C(SC=C1)C(=O)O)C1=CC=CC=C1 | C13H13NO5S2
